US07652041B2
Step 3. Preparation of (2E)-N-[4-chloro-3-(trifluoromethyl)phenyl]-3-[4-(pyridin-4-ylmethyl)phenyl]acrylamide
A mixture of 4-(4-iodobenzyl)pyridine (129 mg, 0.44 mmol), TEA (67 μL, 0.48 mmol), Pd(PPh3)4 (254 mg, 0.222 mmol) and N-[4-chloro-3-(trifluoromethyl)-phenyl]acrylamide (0.120 g, 0.44 mmol) in DMF (4.4 mL) was heated at 95° C. for 3 h. The reaction mixture was cooled to rt, diluted with water, extracted with EtOAc, washed with brine, dried over NaSO4, filtered and concentrated. The residue was purified by column chromatography to give the title compound (161 mg, 40%). LCMS: (FA) ES+ 417.2 (M+1).

reactant | 4-(4-iodobenzyl)pyridine | 0.44 mmol, 129 mg | IC1=CC=C(CC2=CC=NC=C2)C=C1 | C12H10IN
reactant | N-[4-chloro-3-(trifluoromethyl)-phenyl]acrylamide | 0.44 mmol, 0.120 g | ClC1=C(C=C(C=C1)NC(C=C)=O)C(F)(F)F | C10H7ClF3NO
solvent | DMF | 4.4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.222 mmol, 254 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2E)-N-[4-chloro-3-(trifluoromethyl)phenyl]-3-[4-(pyridin-4-ylmethyl)phenyl]acrylamide | 161 mg, 40% | ClC1=C(C=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CC1=CC=NC=C1)=O)C(F)(F)F | C22H16ClF3N2O
